US07312330B2
7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine
Sodium iodide (720 mg, 4.8 mmol) and hydriodic acid (2.0 mL, 47% aqueous solution) were added to a mixture of 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidine as prepared for Example 5.B. (1.2 g, 4.0 mmol) and 4-aminobenzotrifluoride (1.3 g, 8 mmol) in dioxane (20 mL) and the reaction solution was stirred at 100° C. overnight. Solvent was removed in vacuo and the residue was dissolved in water. Solid sodium carbonate was added to the solution to a pH>7 and the mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, and dried over sodium sulfate. Solvent was removed and the residue was purified by column chromatography to yield the product as a beige solid (910 mg).

reactant | Sodium iodide | 4.8 mmol, 720 mg | [I-].[Na+]
reactant | hydriodic acid | 2.0 mL | I | HI
reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)COC | C16H18ClN3O
reactant | 4-aminobenzotrifluoride | 8 mmol, 1.3 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine | 910 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)COC | C23H23F3N4O
